US08106077B2
2′-Bromo-4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-biphenyl-4-carboxylic acid isobutyl-amide
To 2′-bromo-4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-biphenyl-4-carbonyl chloride (0.043 mmol) in dichloromethane (2 mL) is added s-butyl amine (0.05 mL, 0.5 mmol). The reaction is stirred at room temperature for 1 h and concentrated under reduced pressure. The residue is slurried in 1 N hydrochloric acid, and the solid is filtered to give the title compound (0.011 g). ES/MS m/e 617.0 (M+1).

reactant | 2′-bromo-4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-biphenyl-4-carbonyl chloride | 0.043 mmol | BrC1=C(C=CC(=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C1=CC=C(C=C1)C(=O)Cl | C25H19BrCl3N3O2
reactant | s-butyl amine | 0.5 mmol, 0.05 mL | C(C)(CC)N | C4H11N
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2′-Bromo-4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-biphenyl-4-carboxylic acid isobutyl-amide | 0.011 g | C(C(C)C)NC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)Br | C29H29BrCl2N4O2
